US05732717
The first intermediate, 4,6-dihydroxy-2-methylpyrimidinamine, is synthesized by preparing sodium ethoxide in situ from sodium and an hydrous ethanol under a nitrogen blanket. Acetamidine hydrochloride and diethyl malonate are added and the reaction mixture heated to boiling for 2 to 5 hours to afford 4,6-dihydroxy-2-methylpyrimidine.

reactant | 4,6-dihydroxy-2-methylpyrimidinamine | OC1=NC(NC(=C1)O)(N)C | C5H9N3O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | [Na] | Na
reactant | Acetamidine hydrochloride | Cl.C(C)(=N)N
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ethanol | C(C)O | C2H6O
product | 4,6-dihydroxy-2-methylpyrimidine | OC1=NC(=NC(=C1)O)C | C5H6N2O2
